US05571506
Step 7: Preparation of Methyl 5-Acetoxy-2-bromomethyl-4-methoxyhydrocinnamate
To a solution of methyl 5-hydroxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate (5.21 g) in carbon tetrabromide (12.35 g) in anhydrous ether (75 ml) and anhydrous THF (50 ml) is added portionwise triphenylphosphine (9.78 g) and the mixture stirred at room temperature for 60 minutes, diluted with ether, then filtered. The filtrate is concentrated in vacuo and the residue purified by filtration through silica gel in 50% ethyl acetate in hexanes followed by HPLC, eluting with 25% ethyl acetate in hexanes, to give the desired product.

reactant | methyl 5-hydroxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate | 5.21 g | OC=1C(=CC(=C(CCC(=O)OC)C1)CO[Si](C)(C)C(C)(C)C)OC | C18H30O5Si
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 9.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 12.35 g | C(Br)(Br)(Br)Br | CBr4
solvent | ether | 75 ml | CCOCC | C4H10O
product | Methyl 5-Acetoxy-2-bromomethyl-4-methoxyhydrocinnamate | C(C)(=O)OC=1C(=CC(=C(CCC(=O)OC)C1)CBr)OC | C14H17BrO5
